US04324910
1,3-Bis[2-(2,2,2-trichloro-1-hydroxyethoxy)ethyl]thiourea
To 98.4 g (0.6 mole) of 1,3-bis(2-hydroxyethyl)thiourea as 65° C. was slowly added 182 g (1.24 moles) of chloral while the temperature was maintained below 75° C. by means of external cooling. The reaction mixture was vigorously stirred and heated at 80° C. for 1 hour. On cooling 275 g of a viscous syrupy product was isolated.

reactant | 1,3-bis(2-hydroxyethyl)thiourea | 0.6 mole, 98.4 g | OCCNC(=S)NCCO | C5H12N2O2S
reactant | chloral | 1.24 moles, 182 g | O=CC(Cl)(Cl)Cl | C2HCl3O
product | 1,3-Bis[2-(2,2,2-trichloro-1-hydroxyethoxy)ethyl]thiourea | ClC(C(OCCNC(=S)NCCOC(C(Cl)(Cl)Cl)O)O)(Cl)Cl | C9H14Cl6N2O4S
